US07067658B2
Trifluoro-methanesulfonic acid 4-(2-Chloro-5-fluoro-4-methoxy-phenyl)-3-nitro-1H-pyridin-2-one (0.3 g, 0.70 mmol), prepared substantially as described in Part C of Example 19a, and 1-methoxymethyl-propylamine (0.28 g, 2.79 mmol) were treated substantially as described in Part C of Example 19a to produce 35 mg (13%) of crude [4-(2-chloro-5-fluoro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine.

reactant | Trifluoro-methanesulfonic acid 4-(2-Chloro-5-fluoro-4-methoxy-phenyl)-3-nitro-1H-pyridin-2-one | 0.70 mmol, 0.3 g | ClC1=C(C=C(C(=C1)OC)F)C1=C(C(NC=C1)=O)[N+](=O)[O-].FC(S(=O)(=O)O)(F)F
reactant | 1-methoxymethyl-propylamine | 2.79 mmol, 0.28 g | COCC(CC)N | C5H13NO
product | [4-(2-chloro-5-fluoro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 35 mg, 13% | ClC1=C(C=C(C(=C1)OC)F)C1=C(C(=NC=C1)NC(CC)COC)[N+](=O)[O-] | C17H19ClFN3O4
